### PR TITLE
fix ch2 theorems and remove comments

### PR DESCRIPTION
**Pull request by tangyongsheng17-sudo**

### CODE REVIEW

File: pm/dagaz/ch2.v [hunk 1]
```diff
@@ -0,0 +1,886 @@
...
+
+Theorem n2_13 (P : Prop) :
+  P ∨ ¬¬¬ P.
+Proof.
+  assert (S1 : (¬ P → ¬¬¬ P) → (P ∨ ¬ P → P ∨ ¬¬¬ P)).
+  { exact (Sum1_6 P (¬ P) (¬¬¬ P)). }
+  assert (S2 : ¬ P → ¬¬¬ P).
+  { exact (n2_12 (¬ P)). }
+  assert (S3 : P ∨ ¬ P → P ∨ ¬¬¬ P).
+  { pose proof S1 as S3. MP S3 S2. exact S3. }
```
Comment (MudroadWhite) [inline pm/dagaz/ch2.v]: Use `now MP S3 S2` to simplify `exact S3`. `now` tactic hints the prover that this should be the last tactic to perform the proof, and `now` should almost always be prefixed at the last tactic for a block. The only exception is when `exact` is the only tactic in the block, and we don't need to use `now`.
Similarly check other occurrence where we can simplify the `exact`.

File: pm/dagaz/ch2.v [hunk 2]
```diff
@@ -0,0 +1,886 @@
...
+  assert (S2 : Q → ¬ (¬ Q)).
+  { exact (n2_12 Q). }
+  assert (S3 : (¬ P → Q) → (¬ P → ¬ (¬ Q))).
+  { pose proof S1 as S3. MP S3 S2. exact S3. }
+  assert (S4 : (¬ P → ¬ (¬ Q)) → (¬ Q → ¬ (¬ P))).
+  { exact (Transp2_03 (¬ P) (¬ Q)). }
+  assert (S5 : (¬ (¬ P) → P) → ((¬ Q → ¬ (¬ P)) → (¬ Q → P))).
+  { exact (Syll2_05 (¬ Q) (¬ (¬ P)) P). }
+  assert (S6 : (¬ Q → ¬ (¬ P)) → (¬ Q → P)).
+  { pose proof S5 as S6. pose proof (n2_14 P) as H14. MP S6 H14. exact S6. }
```
Comment (MudroadWhite) [inline pm/dagaz/ch2.v]: `pose proof S5 as S6` is needless. Everything can perform just on `S5`. Similarly check other occurrences of `pose proof`.

File: pm/dagaz/ch2.v [hunk 3]
```diff
@@ -0,0 +1,886 @@
...
+  exact S4.
+Qed.
+
+Theorem n2_18 (P : Prop) :
+  (¬ P → P) → P.
+Proof.
+  assert (S1 : P → ¬¬ P).
+  { exact (n2_12 P). }
+  assert (S2 : (¬ P → P) → (¬ P → ¬¬ P)).
+  { pose proof (Syll2_05 (¬ P) P (¬¬ P)) as S2. MP S2 S1. exact S2. }
```
Comment (MudroadWhite) [inline pm/dagaz/ch2.v]: Whenever a block contains multiple tactics, the following format is mandatory:
```
{
  tactic_1.
  tactic_2.
}
```
Except when there are only 1 tactic being used in a block, everything should be shorten to exactly 1 line.

File: pm/dagaz/ch2.v [hunk 4]
```diff
@@ -0,0 +1,886 @@
...
+  { Syll_as S2 S3 S4. exact S4. }
+  assert (S5 : P ∨ (Q ∨ R) → ((P ∨ Q) ∨ R)).
+  { Syll_as S1 S4 S5. exact S5. }
+  exact S5.
+Qed.
+
+Theorem n2_32 (P Q R : Prop) :
+  ((P ∨ Q) ∨ R) → (P ∨ (Q ∨ R)).
+Proof.
+  Theorem n2_32 (P Q R : Prop) :
```
Comment (MudroadWhite) [inline pm/dagaz/ch2.v]: Fix the error and make sure that PR can pass the CI

**Review by tangyongsheng17-sudo — COMMENTED** [review]
thank you!I have fixed the error

**Review by tangyongsheng17-sudo — COMMENTED** [review]
Down

File: pm/dagaz/ch2.v [hunk 5]
```diff
@@ -0,0 +1,848 @@
...
+  assert (S3 : (¬ P → Q) → (¬ P → ¬ (¬ Q))).
+  { now MP S1 S2. }
+  assert (S4 : (¬ P → ¬ (¬ Q)) → (¬ Q → ¬ (¬ P))).
+  { exact (Transp2_03 (¬ P) (¬ Q)). }
+  assert (S5 : (¬ (¬ P) → P) → ((¬ Q → ¬ (¬ P)) → (¬ Q → P))).
+  { exact (Syll2_05 (¬ Q) (¬ (¬ P)) P). }
+  assert (S6 : (¬ Q → ¬ (¬ P)) → (¬ Q → P)).
+  {
+    pose proof (n2_14 P) as H14.
+    now MP S5 H14.
```
Comment (MudroadWhite) [inline pm/dagaz/ch2.v:167]: When `pose proof` on a theorem, name the hypothesis exactly the same as the theorem, as in `pose proof (n2_14 P) as n2_14`.

File: pm/dagaz/ch2.v [hunk 6]
```diff
@@ -0,0 +1,848 @@
...
+
+Theorem Transp2_16 (P Q : Prop) :
+  (P → Q) → (¬ Q → ¬ P).
+Proof.
+  assert (S1 : Q → ¬¬ Q).
+  { exact (n2_12 Q). }
+  assert (S2 : (P → Q) → (P → ¬¬ Q)).
+  {
+    pose proof (Syll2_05 P Q (¬¬ Q)) as H.
+    now MP H S1.
```
Comment (MudroadWhite) [inline pm/dagaz/ch2.v:214]: Similarly, check all occurrences of `pose proof` and correct the names

File: pm/dagaz/ch2.v [hunk 7]
```diff
@@ -0,0 +1,848 @@
...
+  exact S4.
+Qed.
+
+Theorem n2_26 (P Q : Prop) :
+  ¬ P ∨ ((P → Q) → Q).
+Proof.
+  assert (S1 : ¬ P ∨ ((¬ P ∨ Q) → Q)).
+  { exact (n2_25 (¬ P) Q). }
+  assert (S2 : ¬ P ∨ ((P → Q) → Q)).
+  { now replace (¬ P ∨ Q) with (P → Q) in S1 by now rewrite Impl1_01. }
```
Comment (MudroadWhite) [inline pm/dagaz/ch2.v:315]: `replace` is disallowed. To rewrite on `Impl1_01a`, refer to the code in chapter 9, and use the following piece of code wisely:
```
  (* TOOLS *)
  set (λ P0 Q0 : Prop, eq_to_equiv (P0 → Q0) (¬ P0 ∨ Q0) (Impl1_01 P0 Q0))
    as Impl1_01a.
  (* ******** *)
```

File: pm/dagaz/ch2.v [hunk 8]
```diff
@@ -0,0 +1,848 @@
...
+Qed.
+
+Theorem Abb2_33 (P Q R : Prop) :
+  (P ∨ Q ∨ R) = ((P ∨ Q) ∨ R).
+Proof.
+  apply propositional_extensionality.
+  split.
+  { exact (n2_31 P Q R). }
+  { exact (n2_32 P Q R). }
+Qed.
```
Comment (MudroadWhite) [inline pm/dagaz/ch2.v:377]: `Abb2_33` is a `Df`, so we just `Admitted` the proof.

File: pm/dagaz/ch2.v [hunk 9]
```diff
@@ -0,0 +1,848 @@
...
+  ((P ∨ Q) ∨ R) → (P ∨ (Q ∨ R)).
+Proof.
+  assert (S1 : (P ∨ Q) ∨ R → R ∨ (P ∨ Q)).
+  { exact (Perm1_4 (P ∨ Q) R). }
+  assert (S2 : R ∨ (P ∨ Q) → P ∨ (R ∨ Q)).
+  { exact (Assoc1_5 R P Q). }
+  assert (S3 : P ∨ (R ∨ Q) → P ∨ (Q ∨ R)).
+  { exact (n2_3 P R Q). }
+  Syll_as S1 S2 H1.
+  now Syll_as H1 S3 H2.
```
Comment (MudroadWhite) [inline pm/dagaz/ch2.v:367]: Rename the naming with `S3_1`, `S3_2` and so on
